US04864028
A mixture of 3,3',5,5'-tetrafluorobenzophenone (358 g, 1.41 mol), potassium cyanide (137.5 g, 2.11 mol), ammonium carbonate (406 g, 4.22 mol) and ethanol (3.5 L) was heated at 115° C. for 16 h in a stirred 2 gal pressure reactor. After chilling to relieve the pressure, the reactor was opened and the mixture was poured into 8 L of water in a 22-L flask equipped with a mechanical stirrer. The mixture was acidified (pH 2.0) using concentrated hydrochloric acid (~1 L) (Note 1) and the resulting precipitate was collected by filtration, washed with water, and pressed dry. The crude material was recrystallized from ethanol (~6 L) to provide 399.5 g (87%) of 5,5-di(3,5-difluorophenyl)-2,4-imidazolidinedione (Note 2): mp 271°-274° C.; MS m/z 324 (M+); 1H NMR (DMSO-d6) δ 9.50 (s, 2); 7.42-6.90 (m, 6); IR (KBr) 3265, 3160, 3060, 1762, 1710 cm-1.

reactant | 3,3',5,5'-tetrafluorobenzophenone | 1.41 mol, 358 g | FC=1C=C(C(=O)C2=CC(=CC(=C2)F)F)C=C(C1)F | C13H6F4O
reactant | potassium cyanide | 2.11 mol, 137.5 g | [C-]#N.[K+]
reactant | ammonium carbonate | 4.22 mol, 406 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | hydrochloric acid | ~1 L | Cl | ClH
reactant | water | 8 L | O | H2O
solvent | ethanol | 3.5 L | C(C)O | C2H6O
product | 5,5-di(3,5-difluorophenyl)-2,4-imidazolidinedione | 399.5 g, 87% | FC=1C=C(C=C(C1)F)C1(C(NC(N1)=O)=O)C1=CC(=CC(=C1)F)F | C15H8F4N2O2
